US07405210B2
Preparation 31: 1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester
To a suspension of 3-(3-nitropyridin-2-yl)-2-oxopropionic acid ethyl ester (Preparation 30, 1.00 g, 4.20 mmol) in ethanol (30 mL, absolute) was added palladium (10% on activated carbon, 447 mg, 0.42 mmol) and the reaction mixture placed under an atmosphere of hydrogen at a pressure of 20–30psi for 12 h with vigorous stirring. The reaction mixture was filtered through celite, washing with ethyl acetate and the filtrate concentrated in vacuo to ca. 20 mL. Water (150 mL) was added and the mixture cooled to between 0° C. and 5° C. The precipitate that formed was collected by filtration and dried to give the title compound as a beige solid. δH (CDCl3): 1.44 (3H, t), 4.45 (2H, q), 7.25 (1H, dd), 7.39 (1H, s), 7.75 (1H, dd), 8.57 (1H, dd), 8.98 (1H, s).

reactant | 3-(3-nitropyridin-2-yl)-2-oxopropionic acid ethyl ester | 4.20 mmol, 1.00 g | C(C)OC(C(CC1=NC=CC=C1[N+](=O)[O-])=O)=O | C10H10N2O5
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | 0.42 mmol, 447 mg | [Pd] | Pd
product | 1H-Pyrrolo[3,2-b]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=NC=CC=C2N1 | C10H10N2O2
